US06852726B2
To a solution of (6-chloro-indol-1-yl)-acetonitrile (0.446 g, 2.34 mmole) in acetonitrile (30 ml) was added dichloromethylene dimethylammonium chloride (phosgene imminium chloride) (0.418 g, 2.57 mmole). The reaction mixture was brought to reflux for 14 h and then poured into water (100 ml). The mixture was extracted into ethyl acetate and purified by column chromatography (silica gel, hexane:ethyl acetate 3:7) to afford the desired 6-chloro-1-cyanomethyl-1H-indole-3-carboxylic acid dimethylamide (0.286 g, 46% yield) in addition to recovered starting material (0.173 g). Step 3

reactant | (6-chloro-indol-1-yl)-acetonitrile | 2.34 mmole, 0.446 g | ClC1=CC=C2C=CN(C2=C1)CC#N | C10H7ClN2
reactant | dichloromethylene dimethylammonium chloride | 2.57 mmole, 0.418 g | [Cl-].ClC(Cl)=[N+](C)C
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 6-chloro-1-cyanomethyl-1H-indole-3-carboxylic acid dimethylamide | 0.286 g, 46% yield | CN(C(=O)C1=CN(C2=CC(=CC=C12)Cl)CC#N)C | C13H12ClN3O
